US07105554B2
3-[(2-Pyridyl)methoxy]-4-(2-phenylethoxy)benzaldehyde
Cesium carbonate (800 mg, 2.5 mmol, 2 eq) was added to a stirred solution of 3-hydroxy-4-(2-phenylethoxy)-benzaldehyde (300 mg, 1.24 mmol, 1 eq), 2-picolyl chloride (210 mg, 1.3 mmol, 1.05 eq) and tetra-n-butylammonium iodide (460 mg, 1.24 mmol, 1 eq) in N,N-dimethylformamide (10 mL). The solution was stirred overnight, then concentrated in vacuo. The residue was azeotroped with water (2×10 mL), toluene (2×10 mL) and then purified by chromatography on silica gel. Elution with petroleum ether:ethyl acetate (1:1) gave the product as a white powder (367 mg, 89%). 1H NMR (CDCl3) δ 9.75 (s, 1H, O═C—H), 8.55 (d, 1H, J 4.9 Hz, pyH), 7.66 (ddd, 1H, J 7.5, 7.5 and 1.9 Hz, PyH), 7.47 (d, 1H, J 7.5 Hz, ArH), 5.22 (s, 2H, OCH2Py), 4.27 (t, 2H, J 7.2 Hz, OCH2CH2Ph), 3.15 (t, 2H, J 7.2 Hz, OCH2CH2Ph).

reactant | Cesium carbonate | 2.5 mmol, 800 mg, 2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-4-(2-phenylethoxy)-benzaldehyde | 1.24 mmol, 300 mg, 1 eq | OC=1C=C(C=O)C=CC1OCCC1=CC=CC=C1 | C15H14O3
reactant | 2-picolyl chloride | 1.3 mmol, 210 mg, 1.05 eq | N1=C(C=CC=C1)CCl | C6H6ClN
catalyst | tetra-n-butylammonium iodide | 1.24 mmol, 460 mg, 1 eq | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[(2-Pyridyl)methoxy]-4-(2-phenylethoxy)benzaldehyde | 367 mg, 89% | N1=C(C=CC=C1)COC=1C=C(C=O)C=CC1OCCC1=CC=CC=C1 | C21H19NO3
